US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(1-acetyl-7-nitroindolin-5--yl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one-8-boronic acid (178 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 1-acetyl-5-bromo-7-nitroindoline (185 mg, 0.65 mmol), 0.65 mL of 2M sodium carbonate and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with ethyl acetate (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (5% methanol/ethyl acetate eluent) to give 63 mg (22%) of the title compound a yellow solid. mp 235°-240°. FDMS: m/e=433. α[D]589 =+65.72 (c=0.99, chloroform).

reactant | 1-acetyl-5-bromo-7-nitroindoline | 0.65 mmol, 185 mg | C(C)(=O)N1CCC2=CC(=CC(=C12)[N+](=O)[O-])Br | C10H9BrN2O3
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-(1-acetyl-7-nitroindolin-5--yl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3one | 63 mg, 22% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C=3C=C1CCN(C1=C(C3)[N+](=O)[O-])C(C)=O)C)=O | C25H27N3O4
